US09371324B2
Synthesis of 1-(4-Fluoro-phenyl)-4-((6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-ol
1-(4-Fluoro-phenyl)-4-((6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-one tosylate salt (8.58 g, 15.2 mmol) is dissolved in 150 mL of methanol. The obtained brown solution is cooled to −10° C., and then NaBH4 (1.72 g, 45.5 mmol) is added slowly. After the addition is complete, the reaction mixture is stirred at room temperature for an hour, and then quenched by adding 20 mL of water. After solvent is removed by rotary evaporation, the residue is treated with 50 mL of 1N NaOH aqueous solution, and then extracted with methylene chloride four times. The combined organic phase is washed with water, dried with anhydrous sodium sulfate, and then evaporated to dryness under vacuum to give 6 g of white foamy solids with 97.8% purity and 99% yield. MS (ESI) m/z 396.1 [M+H]+.

reactant | 1-(4-Fluoro-phenyl)-4-((6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-one tosylate salt | 15.2 mmol, 8.58 g | S(=O)(=O)(O)C1=CC=C(C)C=C1.FC1=CC=C(C=C1)C(CCCN1C[C@@H]2[C@@H](N3CCN(C=4C=CC=C2C34)C)CC1)=O
reactant | NaBH4 | 45.5 mmol, 1.72 g | [BH4-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
product | 1-(4-Fluoro-phenyl)-4-((6bR,10aS)-3-methyl-2,3,6b,9,10,10a-hexahydro-1H,7H-pyrido[3′,4′:4,5]pyrrolo[1,2,3-de]quinoxalin-8-yl)-butan-1-ol | 6 g, 99% yield | FC1=CC=C(C=C1)C(CCCN1C[C@@H]2[C@@H](N3CCN(C=4C=CC=C2C34)C)CC1)O | C24H30FN3O
